US05370861
1-(Phenyloxycarbonyloxy)pentyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate:
1-Chloropentyl phenyl carbonate (0.14 g, 0.58 mmol) was added at room temperature to a solution of potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (0.35 g, 0.53 mmol) and sodium iodide (0.008 g, 0.053 mmol) in dry DMF (3 ml). After stirring at 50° C. for 5 hours and at room temperature for 2 days the solvent was removed at reduced pressure. The residue was suspended in chloroform (15 ml) and washed four times with a saturated sodium hydrogen carbonate solution and finally twice with water. After drying with magnesium sulfate the solution was evaporated to dryness. Yield: 0.04 g. Purity by HPLC: 94.8 % 1H-NMR (DMSO-d6): delta=0.92 (CH3CH2); 1.31-1.55 (CH3CH2CH2); 1.68 (NCH3COCH3); 2.04 CH2CH); 2,05 (NHCOCH3); 2.97 (NCH3); 6.95 (CH); 7.27-7.49 (phenyl); 10.13 ppm (NH) . FAB/MS: 835 (M+H)+) .

reactant | 1-Chloropentyl phenyl carbonate | 0.58 mmol, 0.14 g | C(OC(CCCC)Cl)(OC1=CC=CC=C1)=O | C12H15ClO3
reactant | potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 0.53 mmol, 0.35 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[K+]
reactant | sodium iodide | 0.053 mmol, 0.008 g | [I-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(Phenyloxycarbonyloxy)pentyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC(CCCC)OC(=O)OC1=CC=CC=C1)I)N(C)C(C)=O)I | C24H25I3N2O7
